US03998829
3α-Hydroxy-21-morpholinomethyl-5α-pregnane-11,20-dione
3α-Hydroxy-5α-pregnane-11,20-dione (1.0 g) in glacial acetic acid (20 ml.) was treated with morpholine (1.0 ml) and concentrated hydrochloric acid (1.0 ml). Paraformaldehyde (600 mg) was added to the stirred solution which was then heated in an oil-bath at 95°-100° for 1 hour. The solution was evaporated and dried in vacuo to a yellow oil (3.5 g.) which was partitioned between ethyl acetate and 0.1N hydrochloric acid. The colourless organic layer was extracted with more hydrochloric acid and the combined yellow aqueous layer was washed with ethyl acetate and basified with saturated sodium bicarbonate solution. The cloudy precipitate was extracted into ethyl acetate, and the extract washed with water, dried (Na2SO4) and evaporated to a pale yellow foam (1.05 g) which was purified by preparative t.l.c. in acetone to give title compound (534 mg) as a colourless foam, [α]D + 73° (c, 0.81).

reactant | 3α-Hydroxy-5α-pregnane-11,20-dione | 1.0 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H32O3
reactant | morpholine | 1.0 ml | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
reactant | Paraformaldehyde | 600 mg | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3α-Hydroxy-21-morpholinomethyl-5α-pregnane-11,20-dione | 534 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCN5CCOCC5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C26H41NO4
